US08389511B2
(3R,4S)-1-(tert-Butoxycarbonyl)-4-phenylpiperidine 3-carboxylic acid
1-tert-Butyl 3-methyl (3R,4S)-4-phenylpiperidine-1,3-dicarboxylate (585 mg) was dissolved in tetrahydrofuran (5 ml) and methanol (5 ml), and thereto was added 1M aqueous sodium hydroxide solution (5.5 ml), and the mixture was stirred at room temperature for 5 hours. The reaction solution was concentrated under reduced pressure, and thereto was added a 5% potassium hydrogen sulfate, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (546 mg).

reactant | 1-tert-Butyl 3-methyl (3R,4S)-4-phenylpiperidine-1,3-dicarboxylate | 585 mg | C1(=CC=CC=C1)[C@@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H25NO4
reactant | sodium hydroxide | 1M, 5.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | (3R,4S)-1-(tert-Butoxycarbonyl)-4-phenylpiperidine 3-carboxylic acid | 546 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=CC=CC=C1)C(=O)O | C17H23NO4
